US05200110
In anhydrous ethanol, compound [L'], commercially available 3,4-difluorobenzonitrile is reacted with gaseous hydrogen chloride to yield compound [M'], 3,4-difluorobenzimidate hydrogen chloride. In ethanol, compound [M'] is reacted with gaseous ammonia to yield compound [N'], 3,4-difluorobenzamidine hydrogen chloride.

reactant | 3,4-difluorobenzonitrile | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 3,4-difluorobenzimidate hydrogen chloride | Cl.FC=1C=C(C(O)=N)C=CC1F | InChI=1S/C7H5F2NO.ClH/c8-5-2-1-4(7(10)11)3-6(5)9;/h1-3H,(H2,10,11);1H
